US06008364
220 g of 4-methylpyridine and 1.0 g of solid base A were fed into a 1000 ml autoclave equipped with an electromagnetic stirrer under an atmosphere of nitrogen, and then heated to 140° C. with stirring at 700 r.p.m. subsequently, 16.5 g of butadiene was added to the mixture in 1 hour. After the reaction, the autoclave was cooled and the catalyst was removed by filtration. The reaction solution was analyzed by gas chromatography. 4-(3-pentenyl)pyridine was obtained in a 86% yield based on 4-methypyridine consumed.

reactant | 4-methylpyridine | 220 g | CC1=CC=NC=C1 | C6H7N
reactant | butadiene | 16.5 g | C=CC=C | C4H6
product | 4-(3-pentenyl)pyridine | 86% yield | C(CC=CC)C1=CC=NC=C1 | C10H13N
